datasets/10k__Tet_Int.csv
SMILES Labelled
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)C1=CC=CC=C1)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CCCCCC.[O-:21]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CC)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CC)[O-:10])CCCCCC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)[H]>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])[H] 21=20;20,10=10"
"[H][S:10]C([H])C(C)[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C([O-:21])CCCCCC)C1=CC=CC=C1)C>>[H]N([C:20]1(OC(C([O:21]1)CCCCCC)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C([H])C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[O][H].[Cl-]>>[Cl-].[H][S:10]C([H])C([H])[S][C:20]([O][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[O:10]([K])C(C)/C(O)=C([C:20]([H])=[O:21])/C>>[O-:21][C:20]1([H])[O+:10]([K])C(C)C(O)=C1C 10=20;20,21=21"
"[NH:10](C)C(CC)/C([H])=C(C)\C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(C)=C([H])C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[H][NH+:10](C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CC)[H])CCCCCC.[O-:21][H]>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])[H])CCCCCC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)=C([H])C([H])C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C([H])/C([H])=C(C)\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(C)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C(C)C(O)C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C(O)C(C)C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C[O:10][CH:20]([F:21])CC>>C[O+:10]=[CH:20]CC.[F-:21] 10=20;20,21=21"
"[NH:10](C)C(CC)C(C)/C(C)=C(C)\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)=C(C)C(C)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1C)CCCCCC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OCC)C1=CC=CC=C1)CC>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)CC 10=20;20,21=21"
"CC[O:10][H].[H][NH+:21]=[C:20]([NH]CC)[O][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([NH]CC)[O][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C([H])[NH]1 10=20;20,21=21"
"[H][S:10]C(C)C(C)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C(CC)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
